US06855710B2
3-{1-[N-(4-cyanophenyl)-N-methyl-amino]-1-phenyl-methylidene}-2-indolinone
Prepared analogously to Example 2 from 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone and 4-methylamino-benzonitrile in THF and subsequent treatment with sodium hydroxide solution in methanol.

reactant | 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)Cl)=O | C17H12ClNO2
reactant | 4-methylamino-benzonitrile | CNC1=CC=C(C#N)C=C1 | C8H8N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 3-{1-[N-(4-cyanophenyl)-N-methyl-amino]-1-phenyl-methylidene}-2-indolinone | C(#N)C1=CC=C(C=C1)N(C)C(C1=CC=CC=C1)=C1C(NC2=CC=CC=C12)=O | C23H17N3O
